US08138211B2
Preparation of (2E)-3-amino-2-cyano-4,4-dimethylpent-2-enthioamide
With cooling, 1.52 g (4.50 mmol) of hydrogen sulphide are introduced as a gas into a mixture of 1.6 g (1.40 mmol) of (1-amino-2,2-dimethylpropylidene)propanedinitrile, 1.41 g (1.40 mmol) of triethylamine and 2.21 g (2.80 mmol) of pyridine. For 1 h, nitrogen is then passed through the reaction mixture, and the reaction mixture is then added to ice-water and extracted with dichloromethane. The combined organic phases are dried over Mg2SO4 and freed from the solvent under reduced pressure.

reactant | hydrogen sulphide | 4.50 mmol, 1.52 g | S | H2S
reactant | (1-amino-2,2-dimethylpropylidene)propanedinitrile | 1.40 mmol, 1.6 g | NC(C(C)(C)C)=C(C#N)C#N | C8H11N3
reactant | triethylamine | 1.40 mmol, 1.41 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 2.80 mmol, 2.21 g | N1=CC=CC=C1 | C5H5N
product | (2E)-3-amino-2-cyano-4,4-dimethylpent-2-enthioamide | N/C(=C(/C(N)=S)\C#N)/C(C)(C)C | C8H13N3S
